US05403851
To a strirred suspension 1.4 g (7.8 mmol) of 5-fluorotryptamine in 5 mL of water and 1.1 mL (7.8 mmol) of triethylamine was added 2.5 g (7.8 mmol) of 2-(4-methoxybenzyloxycarbonyloxyimino)-2-phenylacetonitrile (MOZ-ON) and 10 mL of dioxane. The reaction mixture was stirred at room temperature for 1 hour under argon, diluted with water, and extracted with ethyl acetate. The organic extracts were washed with saturated sodium chloride, dried over anhydrous Na2SO4, and concentrated under vacuum. The residue was purified by flash chromatography, over silica gel, using hexane:ethyl acetate (2:1 and later 1:1) as eluents to provide 1.7 g (63%) of N-(p-methoxybenzyloxycarbonyl)-5-fluorotryptamine as an off-white solid. mp 118°-119° C.

reactant | 5-fluorotryptamine | 7.8 mmol, 1.4 g | FC1=CC=C2NC=C(CCN)C2=C1 | C10H11FN2
reactant | triethylamine | 7.8 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-methoxybenzyloxycarbonyloxyimino)-2-phenylacetonitrile | 7.8 mmol, 2.5 g | COC1=CC=C(COC(=O)ON=C(C#N)C2=CC=CC=C2)C=C1 | C17H14N2O4
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | N-(p-methoxybenzyloxycarbonyl)-5-fluorotryptamine | 1.7 g, 63% | COC1=CC=C(COC(=O)NCCC2=CNC3=CC=C(C=C23)F)C=C1 | C19H19FN2O3
